*$
*//-----------------------------------------------------------------------//
*//   Part        : EMZS250ARA102MJA0G
*//   Date        : 2020/04/14
*//   Temperature : 20deg.C/-55deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZS250ARA102MJA0G_20deg-C 1 2

C1 4 2 2.66e-04
C2 5 2 5.26e-04
C3 6 2 3.49e-05
R1 3 4 4.85e-02
R2 4 5 2.68e-02
R3 5 6 1.40e-02
L1 1 3 4.50e-09

.ENDS

.SUBCKT EMZS250ARA102MJA0G_-55deg-C 1 2

C1 4 2 4.20e-05
C2 5 2 1.88e-04
C3 6 2 5.26e-04
R1 3 4 4.34e-01
R2 4 5 8.60e-02
R3 5 6 3.05e-01
L1 1 3 4.50e-09

.ENDS

.SUBCKT EMZS250ARA102MJA0G_105deg-C 1 2

C1 4 2 2.93e-04
C2 5 2 5.35e-04
C3 6 2 1.16e-04
R1 3 4 2.78e-02
R2 4 5 8.67e-03
R3 5 6 3.83e-01
L1 1 3 4.50e-09

.ENDS
*$
